US07618961B2
Ethyl (2-{[(3-chloro-4-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 3-chloro-4-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (51.7 mg) with purity >90%. LCMS (pos) m/z 375.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 3-chloro-4-methylbenzenesulfonyl chloride | ClC=1C=C(C=CC1C)S(=O)(=O)Cl | C7H6Cl2O2S
product | Ethyl (2-{[(3-chloro-4-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC=1C=C(C=CC1C)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H15ClN2O4S2
